US04387229
1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropylidene)piperidine
To a 15° C. solution of 4.13 g. (12.0 mmols.) of triphenyl 3-phenylpropylphosphorane in 24 ml. of dimethyl sulfoxide [from 5.10 g. (12.0 mmols.)] of triphenyl 3-phenylpropylphosphonium bromide and 12.0 mmols. of dimsyl sodium in 24 ml. of dimethyl sulfoxide] is slowly added 4.97 g. (10.0 mmols.) of 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidone in 10 ml. of dimethyl sulfoxide. The reaction mixture is then allowed to warm to 25° C. and is then stirred at 25° C. for 4 hours. It is then added to 500 ml. of ice water-250 ml. ether. The ether extract is washed with two 250 ml. portions of water, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 400 g. of silica gel eluted with 50% ethercyclohexane to yield the title compound.

reactant | triphenyl 3-phenylpropylphosphorane | 12.0 mmols | C1(=CC=CC=C1)P(CCCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27P
reactant | triphenyl 3-phenylpropylphosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CCCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimsyl sodium | [Na+].CS(=O)[CH2-]
reactant | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidone | 10.0 mmols | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H43NO2
solvent | ether | CCOCC | C4H10O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 12.0 mmols, 5.10 g | CS(=O)C | C2H6OS
product | 1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropylidene)piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)=CCCC1=CC=CC=C1)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C43H53NO
